US08802661B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethyl)(2-hydroxyethyl)carbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
A mixture of 2-hydroxyethyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethyl)(2-hydroxyethyl)carbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (6 mg, 8.37 μmol) and sodium hydroxide (0.042 mL, 0.042 mmol) in dioxane (1 mL) was heated up at 78° C. for 3 hours. The solution was diluted with water and filtered. The clear solution was purified by prep HPLC to provide the title compound as a white solid (5 mg, 84%). LCMS: m/e 673.58 (M+H)+, 2.08 min (method 1). 1H NMR (500 MHz, Acetic Acid-d4) δ ppm 8.03 (d, J=8.24 Hz, 2H), 7.30 (d, J=8.55 Hz, 2H), 5.43-5.31 (m, 1H), 4.78 (d, J=1.53 Hz, 1H), 4.66 (s, 1H), 4.26-4.13 (m, 2H), 3.90-3.78 (m, 2H), 3.75-3.63 (m, 4H), 3.30 (s, 6H), 3.20-3.07 (m, 1H), 2.60-2.45 (m, 1H), 1.74 (s, 3H), 2.26-1.22 (m, 21H), 1.08 (s, 3H), 1.07 (s, 3H), 1.05 (s, 3H), 1.01 (s, 3H), 0.99 (s, 3H).

reactant | 2-hydroxyethyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethyl)(2-hydroxyethyl)carbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 8.37 μmol, 6 mg | CN(CCN(C(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OCCO)C=C1)C)[C@@H](CC2)C(=C)C)CCO)C | C45H68N2O5
reactant | sodium hydroxide | 0.042 mmol, 0.042 mL | [OH-].[Na+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethyl)(2-hydroxyethyl)carbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 5 mg, 84% | CN(CCN(C(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)CCO)C | C43H64N2O4
